US08981084B2
Methyl 4-(5-cyanopyridin-2-yl)piperazine-2-carboxylate
This compound was synthesized from methyl piperazine-2-carboxylate and 6-chloronicotinonitrile as described for example 39 step 1 (90 mg, yield 35%). 1H NMR (400 MHz, MeOD) δ 8.42 (dd, J=2.4 Hz, 0.6 Hz, 1H), 7.76 (dd, J=9.0 Hz, 2.3 Hz, 1H), 6.90 (m, 1H), 4.39-4.35 (dd, J=13.2 Hz, 2.6 Hz, 1H), 3.95-3.90 (m, 1H), 3.76 (s, 3H), 3.63-3.60 (dd, J=8.4 Hz, 3.4 Hz, 1H), 3.52-3.47 (dd, J=13.1 Hz, 8.4 Hz, 1H), 3.45-3.39 (ddd, J=13.1 Hz, 9.3 Hz, 3.4 Hz, 1H), 3.13-3.08 (m, 1H), 2.86-2.79 (ddd, J=12.5 Hz, 9.1 Hz, 3.5 Hz, 1H).

reactant | methyl piperazine-2-carboxylate | N1C(CNCC1)C(=O)OC | C6H12N2O2
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | Methyl 4-(5-cyanopyridin-2-yl)piperazine-2-carboxylate | yield 35% | C(#N)C=1C=CC(=NC1)N1CC(NCC1)C(=O)OC | C12H14N4O2
